US09102614B2
Preparation of (4-bromo-5-methoxy-3-methyl-1-oxo-3,4-dihydro-1H-naphthalen-2-ylidene)-acetic acid ethyl ester:
A mixture of (5-methoxy-3-methyl-1-oxo-3,4-dihydro-1H-naphthalen-2-ylidene)-acetic acid ethyl ester (480 mg), NBS (420 mg), and AIBN (30 mg) in CCl4 (18 mL) was refluxed for 3 hours. The reaction mixture was then cooled to room temperature, quenched with saturated sodium bicarbonate solution and extracted with dichloromethane (2×). The combined organics were washed with water, dried (Na2SO4), concentrated, and purified by flash column chromatography to give a light brown solid (420 mg) LCMS-ESI+ (m/z): [M+H]+ calcd for C16H18BrO4: 353.03. Found: 352.91.

reactant | (5-methoxy-3-methyl-1-oxo-3,4-dihydro-1H-naphthalen-2-ylidene)-acetic acid ethyl ester | 480 mg | C(C)OC(C=C1C(C2=CC=CC(=C2CC1C)OC)=O)=O | C16H18O4
reactant | NBS | 420 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 30 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 18 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | (4-bromo-5-methoxy-3-methyl-1-oxo-3,4-dihydro-1H-naphthalen-2-ylidene)-acetic acid ethyl ester | 420 mg | C(C)OC(C=C1C(C2=CC=CC(=C2C(C1C)Br)OC)=O)=O | C16H17BrO4
